US07465795B2
4-Amino-8-bromo-cinnoline-3-carboxylic acid allylamide
To an ice-cooled suspension of 4-amino-8-bromo-cinnoline-3-carboxylic acid (360 mg, 1.34 mmol) in dimethylformamide (5 mL) was added CDI (370 mg, 2.3 mmol) and the mixture was stirred at room temperature for 1 hour. Additional DMF (14 mL) was added to enable stirring. After an additional 1 hour at room temperature, the mixture was treated with allyl amine (120 uL, 91 mg, 1.60 mmol) in one portion. The reaction was stirred at room temperature for 1 hour and then concentrated. Purification on silica gel using a gradient of 20 to 80% ethyl acetate in hexanes afforded the title compound (300 mg, 73%). 1H NMR (300.132 MHz, CDCl3) δ 8.14 (dd, J=7.4, 1.0 Hz, 1H), 7.83 (dd, J=8.4, 1.0 Hz, 1H), 7.51 (dd, J=8.4, 7.5 Hz, 1H), 6.04-5.91 (m, 1H), 5.33 (dq, J=17.1, 1.6 Hz, 1H), 5.21 (dq, J=10.4, 1.4 Hz, 1H), 4.15 (ddt, J=6.2, 5.8, 1.6 Hz, 2H). MS APCI, m/z=307/309 (M+H). HPLC 1.59 min.

reactant | 4-amino-8-bromo-cinnoline-3-carboxylic acid | 1.34 mmol, 360 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)O | C9H6BrN3O2
reactant | CDI | 2.3 mmol, 370 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | allyl amine | 1.60 mmol, 120 uL, 91 mg | C(C=C)N | C3H7N
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | DMF | 14 mL | CN(C)C=O | C3H7NO
product | 4-Amino-8-bromo-cinnoline-3-carboxylic acid allylamide | 300 mg, 73% | C(C=C)NC(=O)C=1N=NC2=C(C=CC=C2C1N)Br | C12H11BrN4O
